************************************************************************
* auCdl Netlist:
* 
* Library Name:  EECS391
* Top Cell Name: DFF
* View Name:     schematic
* Netlisted on:  Feb 19 21:34:02 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EECS391
* Cell Name:    DFF
* View Name:    schematic
************************************************************************

.SUBCKT DFF D Q Q_bar clk gnd rst_bar vdd
*.PININFO D:I clk:I rst_bar:I Q:O Q_bar:O gnd:B vdd:B
MM27 net42 clk gnd gnd NMOS_VTG W=400n L=50n m=1
MM23 net66 net42 gnd gnd NMOS_VTG W=800n L=50n m=1
MM22 net54 net58 net66 gnd NMOS_VTG W=800n L=50n m=1
MM21 Q net58 gnd gnd NMOS_VTG W=400n L=50n m=1
MM18 Q_bar net54 gnd gnd NMOS_VTG W=400n L=50n m=1
MM17 net68 rst_bar gnd gnd NMOS_VTG W=800n L=50n m=1
MM16 net58 net54 net68 gnd NMOS_VTG W=800n L=50n m=1
MM12 net54 clk net51 vdd NMOS_VTG W=400n L=50n m=1
MM11 net69 net51 gnd gnd NMOS_VTG W=1.2u L=50n m=1
MM10 net70 rst_bar net69 gnd NMOS_VTG W=1.2u L=50n m=1
MM9 net44 net42 net70 gnd NMOS_VTG W=1.2u L=50n m=1
MM5 net51 net44 gnd gnd NMOS_VTG W=400n L=50n m=1
MM3 net38 net42 net44 gnd NMOS_VTG W=400n L=50n m=1
MM0 net38 D gnd gnd NMOS_VTG W=400n L=50n m=1
MM26 net42 clk vdd vdd PMOS_VTG W=600n L=50n m=1
MM25 net67 clk vdd vdd PMOS_VTG W=1.2u L=50n m=1
MM24 net54 net58 net67 vdd PMOS_VTG W=1.2u L=50n m=1
MM20 Q net58 vdd vdd PMOS_VTG W=600n L=50n m=1
MM19 Q_bar net54 vdd vdd PMOS_VTG W=600n L=50n m=1
MM15 net58 rst_bar vdd vdd PMOS_VTG W=600n L=50n m=1
MM14 net58 net54 vdd vdd PMOS_VTG W=600n L=50n m=1
MM13 net54 net42 net51 gnd PMOS_VTG W=600n L=50n m=1
MM8 net44 clk net48 vdd PMOS_VTG W=1.2u L=50n m=1
MM7 net48 net51 vdd vdd PMOS_VTG W=1.2u L=50n m=1
MM6 net48 rst_bar vdd vdd PMOS_VTG W=1.2u L=50n m=1
MM4 net51 net44 vdd vdd PMOS_VTG W=600n L=50n m=1
MM2 net38 clk net44 vdd PMOS_VTG W=600n L=50n m=1
MM1 net38 D vdd vdd PMOS_VTG W=600n L=50n m=1
.ENDS

